US09145380B2
5-(2-(3,4-Dichlorophenyl)ethylsulfonamido)-2,3-dihydro-1H-indene-4-sulfonamide
The title compound was synthesized as described for Example 226 in 20% yield, starting from a mixture of (E)-5-(2-(3,4-dichlorophenyl)vinylsulfonamido)-2,3-dihydro-1H-indene-4-sulfonamide compound and (E)-6-(2-(3,4-dichlorophenyl)vinylsulfonamido)-2,3-dihydro-1H-indene-5-sulfonamide (1:1). Purification by preparative HPLC.

reactant | (E)-5-(2-(3,4-dichlorophenyl)vinylsulfonamido)-2,3-dihydro-1H-indene-4-sulfonamide | ClC=1C=C(C=CC1Cl)/C=C/S(=O)(=O)NC1=C(C=2CCCC2C=C1)S(=O)(=O)N | C17H16Cl2N2O4S2
reactant | (E)-6-(2-(3,4-dichlorophenyl)vinylsulfonamido)-2,3-dihydro-1H-indene-5-sulfonamide | ClC=1C=C(C=CC1Cl)/C=C/S(=O)(=O)NC1=C(C=C2CCCC2=C1)S(=O)(=O)N | C17H16Cl2N2O4S2
product | 5-(2-(3,4-Dichlorophenyl)ethylsulfonamido)-2,3-dihydro-1H-indene-4-sulfonamide | 20% yield | ClC=1C=C(C=CC1Cl)CCS(=O)(=O)NC1=C(C=2CCCC2C=C1)S(=O)(=O)N | C17H18Cl2N2O4S2
